US05723614
A solution of 1 g of ethyl 5-(1-piperazinyl)-benzofuran-2-carboxylate in 50 ml of THF is stirred with 1 g of di-tert-butyl dicarbonate for 3 hours. After customary working up, ethyl 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-carboxylate, m.p. 116°-118°, is obtained.

reactant | ethyl 5-(1-piperazinyl)-benzofuran-2-carboxylate | 1 g | N1(CCNCC1)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C15H18N2O3
reactant | di-tert-butyl dicarbonate | 1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | ethyl 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C20H26N2O5
